US07531532B2
Benzyl N-[4-(2-aminopyrimidin-4-ylamino)phenyl]carbamate
2-Amino-4-chloropyridine (257 mg) was dissolved in 2-ethoxyethanol (10 ml), and then benzyl N-(4-aminophenyl)carbamate (533 mg) and pyridine hydrochloride (462 mg) were added thereto, followed by stirring at 120° C. overnight. The reaction mixture was cooled down to room temperature, and partitioned between ethyl acetate and a saturated aqueous solution of sodium hydrogencarbonate. The organic layer was washed with brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate, then ethyl acetate:methanol=95:5). Fractions containing the target compound were concentrated to give a residue, to which ethyl acetate-hexane was then added to precipitate crystals. The solid was filtered, and dried under aeration to provide the titled compound (321.5 mg, 48%) as pale brown crystals.

reactant | 2-Amino-4-chloropyridine | 257 mg | NC1=NC=CC(=C1)Cl | C5H5ClN2
reactant | benzyl N-(4-aminophenyl)carbamate | 533 mg | NC1=CC=C(C=C1)NC(OCC1=CC=CC=C1)=O | C14H14N2O2
reactant | pyridine hydrochloride | 462 mg | Cl.N1=CC=CC=C1
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | 2-ethoxyethanol | 10 ml | C(C)OCCO | C4H10O2
product | Benzyl N-[4-(2-aminopyrimidin-4-ylamino)phenyl]carbamate | 321.5 mg, 48% | NC1=NC=CC(=N1)NC1=CC=C(C=C1)NC(OCC1=CC=CC=C1)=O | C18H17N5O2
